US05610144
By proceeding in a fashion similar to that described in Example 2, but starting from 1.9 g of (2RS,5SR)-1-(2-aminoacetyl)-5-phenyl-N-tert-butylprolinamide in solution in 20 cm3 of anhydrous tetrahydrofuran and 0.82 cm3 of 3-methylphenyl isocyanate, after recrystallistion in acetonitrile, 0.7 g of (2RS,5SR)-N-tert-butyl-1-[3-(3-methylphenyl)ureidoacetyl]-5-phenylprolinamide, melting at 169° C., is obtained.

reactant | (2RS,5SR)-1-(2-aminoacetyl)-5-phenyl-N-tert-butylprolinamide | 1.9 g | NCC(=O)N1C(C(=O)NC(C)(C)C)CCC1C1=CC=CC=C1 | C17H25N3O2
reactant | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
solvent | 3-methylphenyl isocyanate | 0.82 cm3 | CC=1C=C(C=CC1)N=C=O | C8H7NO
solvent | acetonitrile | C(C)#N | C2H3N
product | (2RS,5SR)-N-tert-butyl-1-[3-(3-methylphenyl)ureidoacetyl]-5-phenylprolinamide | 0.7 g | C(C)(C)(C)NC(C1N(C(CC1)C1=CC=CC=C1)C(CNC(=O)NC1=CC(=CC=C1)C)=O)=O | C25H32N4O3
